US06927228B2
1.25 g (3 mmol) of ethyl 3-{3′-[(benzoyl-methylamino)methyl]biphenyl-4-yl}-2-methylpropionate, 3 ml of sodium hydroxide (10N), 32 ml of THF and 2 ml of methanol are introduced into a round-bottomed flask. The reaction medium is refluxed for 8 hours, poured into water, acidified to pH 4 with 1N hydrochloric acid and extracted with dichloromethane, and the organic phase is separated out after settling of the phases has taken place, dried over magnesium sulfate and evaporated. The residue obtained is purified by chromatography on a column of silica eluded with a mixture of heptane and ethyl acetate (60/40). 900 mg (90%) of 2-methyl-3-(3′-{[methyl-(1-phenylmethanoyl)-amino]methyl}biphenyl-4-yl)propionic acid, with a melting point of 60-61° C., are obtained.

reactant | ethyl 3-{3′-[(benzoyl-methylamino)methyl]biphenyl-4-yl}-2-methylpropionate | 3 mmol, 1.25 g | C(C1=CC=CC=C1)(=O)N(C)CC=1C=C(C=CC1)C1=CC=C(C=C1)CC(C(=O)OCC)C | C27H29NO3
reactant | sodium hydroxide | 10N, 3 ml | [OH-].[Na+]
reactant | THF | 32 ml | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | 2-methyl-3-(3′-{[methyl-(1-phenylmethanoyl)-amino]methyl}biphenyl-4-yl)propionic acid | 900 mg, 90% | CC(C(=O)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(=O)C1=CC=CC=C1)C | C25H25NO3
